US08492378B2
2-(1-benzofuran-5-yl)-5-[3-(4-methoxyphenyl)propyl]-1,3,4-oxadiazole
In the same manner as in Example 14 and using 1-benzofuran-5-carbohydrazide instead of 1H-benzotriazole-5-carbohydrazide and 4-(4-methoxyphenyl)butyric acid instead of 3-(3-cyanophenyl)propionic acid, the title compound (yield 15%) was obtained as colorless crystals.

reactant | 1-benzofuran-5-carbohydrazide | O1C=CC2=C1C=CC(=C2)C(=O)NN | C9H8N2O2
reactant | 4-(4-methoxyphenyl)butyric acid | COC1=CC=C(C=C1)CCCC(=O)O | C11H14O3
product | 2-(1-benzofuran-5-yl)-5-[3-(4-methoxyphenyl)propyl]-1,3,4-oxadiazole | yield 15% | O1C=CC2=C1C=CC(=C2)C=2OC(=NN2)CCCC2=CC=C(C=C2)OC | C20H18N2O3
